US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)ethylamine hydrochloride
To 15 ml of tetrahydrofuran were added 1.56 g (10 mmol) of (E)-N-(3-chloro-2-propenyl)ethylamine hydrochloride, 95.2 mg (0.5 mmol) of copper (I) iodide, 44.9 mg (0.2 mmol) of palladium acetate and 105 mg (0.4 mmol) of triphenylphosphine, and further, 2.97 ml (30 mmol) of n-butylamine and 1.47 ml (12 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 18 hours at room temperature, and concentrated under reduced pressure. The residue was subjected to silica gel chromato-.graphy (n-hexane→n-hexane/ethyl acetate=9/1→3/7). The desired fractions were put together and concentrated under reduced pressure. The residue was dissolved in 3 ml of 17% hydrogen chloride isopropyl alcohol solution, and the solvent and excess hydrogen chloride were distilled off. The resulting crystals were suspended in 20 ml of a mixture of ethyl acetate and diisopropyl ether (1/3), cooled, filtered, washed with 5 ml of diisopropyl ether and dried to obtain 1.46 g (yield: 72%) of the above identified compound as off-white crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)ethylamine hydrochloride | 10 mmol, 1.56 g | Cl.Cl/C=C/CNCC
reactant | triphenylphosphine | 0.4 mmol, 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 30 mmol, 2.97 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 12 mmol, 1.47 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 0.5 mmol, 95.2 mg | [Cu]I
catalyst | palladium acetate | 0.2 mmol, 44.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)ethylamine hydrochloride | yield: 72% | Cl.CC(C#C/C=C/CNCC)(C)C | InChI=1S/C11H19N.ClH/c1-5-12-10-8-6-7-9-11(2,3)4;/h6,8,12H,5,10H2,1-4H3;1H/b8-6+;
